US06610688B2
Synthesis of 5-[4-(3-Ethynyl-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl ]-1H-pyrrole-2-carboxylic Acid (2-Morpholin-4-yl-ethyl)-amide Hydrochloride (Formula 16)
The title compound (20% yield) was prepared from 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide and 3-ethynylaniline according to the procedure described for Example 12. MS 484.3 [M++1].

reactant | 5-(4-chloro-6-oxo-6,7-dihydro-pyrrolo[2,3-d]pyrimidin-5-ylidenemethyl)-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)Cl)=O | C18H19ClN6O3
reactant | 3-ethynylaniline | C(#C)C=1C=C(N)C=CC1 | C8H7N
product | 5-[4-(3-Ethynyl-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl ]-1H-pyrrole-2-carboxylic Acid (2-Morpholin-4-yl-ethyl)-amide Hydrochloride | 20% yield | Cl.N1(CCOCC1)CCNC(=O)C=1NC(=CC1)C=C1C(NC=2N=CN=C(C21)NC2=CC(=CC=C2)C#C)=O | InChI=1S/C26H25N7O3.ClH/c1-2-17-4-3-5-18(14-17)31-23-22-20(25(34)32-24(22)29-16-28-23)15-19-6-7-21(30-19)26(35)27-8-9-33-10-12-36-13-11-33;/h1,3-7,14-16,30H,8-13H2,(H,27,35)(H2,28,29,31,32,34);1H
